US08859768B2
To a solution of 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid (0.303 g, 0.815 mmol) in DCM (2 mL) was added CDI (0.14 g, 0.87 mmol). The reaction mixture was allowed to stir at rt for 30 min, then at reflux for 30 min. The reaction mixture was allowed to cool to rt and TEA (0.125 mL, 0.896 mmol) and N-methoxymethanamine hydrochloride (0.835 g. 0.856 mmol) were added. The reaction mixture was allowed to stir at rt overnight and then diluted with water. The aqueous solution was separated and extracted with DCM. The organic solutions were combined, washed sequentially with 10% citric acid, saturated aq. NaHCO3 (50 mL) and brine, dried over Na2SO4, filtered and concentrated to give 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-methoxy-N-methyl-1,3-oxazole-4-carboxamide (0.187 g, 55%), which was used without purification in the next step. LCMS (FA): m/z=415.4 (M+H).

reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-1,3-oxazole-4-carboxylic acid | 0.815 mmol, 0.303 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)O)C1=C(C=CC=C1)Cl)C | C18H14ClN3O4
reactant | CDI | 0.87 mmol, 0.14 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-methoxymethanamine hydrochloride | 0.856 mmol, 0.835 g | Cl.CONC
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-methoxy-N-methyl-1,3-oxazole-4-carboxamide | 0.187 g, 55% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)N(C)OC)C1=C(C=CC=C1)Cl)C | C20H19ClN4O4
